US06420365B1
A solution of 11.94 g of the 3:2 mixture of ethyl 3-bromo-4-(2-methoxy-5-bromophenyl)-2-oxobutanoate and ethyl 3-(2-methoxy-5-bromophenyl)propanoate in 150 mL of ethanol is treated with 2.85 g (30.0 mmol) of 2-aminopyrazine and heated to reflux temperature for 16 hr. The reaction mixture is cooled to room temperature and treated with 10 g of potassium carbonate. The mixture is filtered through Celite and the solvent removed in vacuo to yield the crude material. The resulting residue is flash chromatographed with initially 1% methanol in dichloromethane and then 3% methanol in dichloromethane to afford 3.7 g (48% based on starting material) ethyl 3-[(5-bromo-2-methoxyphenyl)methyl]-imidazolo[1,2-a]pyridine-2-carboxylate.

reactant | ethyl 3-bromo-4-(2-methoxy-5-bromophenyl)-2-oxobutanoate | BrC(C(C(=O)OCC)=O)CC1=C(C=CC(=C1)Br)OC | C13H14Br2O4
reactant | ethyl 3-(2-methoxy-5-bromophenyl)propanoate | COC1=C(C=C(C=C1)Br)CCC(=O)OCC | C12H15BrO3
reactant | 2-aminopyrazine | 30.0 mmol, 2.85 g | NC1=NC=CN=C1 | C4H5N3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 3-[(5-bromo-2-methoxyphenyl)methyl]-imidazolo[1,2-a]pyridine-2-carboxylate | 3.7 g, 48% | BrC=1C=CC(=C(C1)CC1=C(N=C2N1C=CC=C2)C(=O)OCC)OC | C18H17BrN2O3
